US05990161
A mixture of N-benzyloxypropionamide (1.8 g, 10 mmol), 2-bromomethylphenyl-3-methoxypropenoate (2.85 g, 10 mmol), potassium carbonate (1.66 g, 12 mmol), 4-N,N-dimethyl-aminopyridine (0.1 g) and acetonitrile (20 ml) was heated with reflux for 7 hours. After completion of the reaction, the reaction solution was filtered, the solvent was removed by evaporation, and the residue was purified with silica gel chromatography to obtain methyl 2-[2-{(1-benzyloxyiminopropyl)oxymethyl}phenyl]-3-methoxypropenoate (1.00 g, yield: 26%). The proton NMR Spectra: 1.04 t (3H); 2.21 q (2H); 3.67 s (3H); 3.73 s (3H); 5.01 s (2H); 5.10 s (2H); 7.13-7.45 m (9H); 7.54 s (1H) (Solvent: CDCl3).

reactant | N-benzyloxypropionamide | 10 mmol, 1.8 g | C(C1=CC=CC=C1)ONC(CC)=O | C10H13NO2
reactant | 2-bromomethylphenyl-3-methoxypropenoate | 10 mmol, 2.85 g | BrCC1=C(C=CC=C1)C(C(=O)[O-])=COC
reactant | potassium carbonate | 12 mmol, 1.66 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | methyl 2-[2-{(1-benzyloxyiminopropyl)oxymethyl}phenyl]-3-methoxypropenoate | 1.00 g, yield: 26% | C(C1=CC=CC=C1)ON=C(CC)OCC1=C(C=CC=C1)C(C(=O)OC)=COC | C22H25NO5
